US06548079B1
Moxifloxacin Formulation 0.16% (w/v) (400 mg/250 ml)
The water is initially charged in a reaction vessel made of glass, and moxifloxacin hydrochloride is dissolved therein with stirring. Sodium chloride is added to the solution of the active compound and dissolved therein. An Fe(III) chloride solution is added to the mixture. The mixture is filtered through a 0.2 μm sterile filter and in each case 250 ml are filled into an infusion bottle which is closed and heated in an autoclave at 121° C. for 20 min.

reactant | moxifloxacin hydrochloride | COC1=C2C(=CC(=C1N3C[C@@H]4CCCN[C@@H]4C3)F)C(=O)C(=CN2C5CC5)C(=O)O.Cl
reactant | Sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | Moxifloxacin | COC1=C2C(=CC(=C1N3C[C@@H]4CCCN[C@@H]4C3)F)C(=O)C(=CN2C5CC5)C(=O)O | C21H24FN3O4
